US07423059B2
Part I: Preparation of 2,5-diphenylpyrrole
Dibenzoylethane (1.50 g, 6.30 mmol) and ammonium acetate (2.00 g, 25.2 mmol) were mixed together and the mixture was heated to 100° C. for 4 hours. The reaction mixture was cooled down to room temperature, diluted with 30 ml of water and basified with 1N NaOH until pH 14. The reaction mixture was extracted several times with chloroform. The combined organic phases were washed with 1N NaOH, water, brine and dried over MgSO4. Filtration and concentration afforded a crude product which was purified on silica gel column with hexanes/ethyl acetate (10/1) as eluant, the product was collected to yield after evaporation to dryness 0.90 g (65.2%). A light yellow solid; 1H-NMR (CDCl3): 67 ppm 7.20-7.60 (m, ArH, 10H), 6.6 (d, ArH, 2H).

reactant | Dibenzoylethane | 6.30 mmol, 1.50 g | C(C1=CC=CC=C1)(=O)C(C)C(C1=CC=CC=C1)=O | C16H14O2
reactant | ammonium acetate | 25.2 mmol, 2.00 g | C(C)(=O)[O-].[NH4+]
solvent | water | 30 ml | O | H2O
solvent | NaOH | 1N | [OH-].[Na+]
product | 2,5-diphenylpyrrole | C1(=CC=CC=C1)C=1NC(=CC1)C1=CC=CC=C1 | C16H13N
